US08124617B2
2-(3-(benzyloxy)-5-isopropoxyphenyl)-6-phenyl-3H-imidazo[4,5-b]pyridine
To a mixture of 2-(3-(benzyloxy)-5-isopropoxyphenyl)-6-bromo-3H-imidazo[4,5-b]pyridine (0.11 g), phenylboronic acid (0.05 g) and tetrakis(triphenylphosphine)palladium(0) (0.01 g) in a mixed solvent of dimethoxyethane (3.0 ml) and ethanol (1 ml) was 0.5M aqueous sodium carbonate solution (1 ml), and the mixture was subjected to microwave irradiation in a sealed reaction container and stirred at 150° C. for 4 min. After completion of the reaction, water (2 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (10 ml). The extract was washed successively with water and saturated brine and dried over magnesium sulfate. The solvent was concentrated under reduced pressure, and the obtained crystals were collected by filtration, washed with isopropyl ether and dried to give the title compound (0.11 g). 1H NMR (CDCl3) δ ppm 1.33 (6 H, d, J=6.03 Hz), 4.59-4.71 (1 H, m), 5.19 (2 H, s), 6.70 (1 H, t, J=1.88 Hz), 7.35-7.50 (9 H, m), 7.58 (1 H, s), 7.70 (2 H, d, J=6.97 Hz), 8.37 (1 H, d, J=1.70 Hz), 8.86 (1 H, d, J=1.70 Hz), 14.11 (1 H, s).

reactant | 2-(3-(benzyloxy)-5-isopropoxyphenyl)-6-bromo-3H-imidazo[4,5-b]pyridine | 0.11 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OC(C)C)C1=NC=2C(=NC=C(C2)Br)N1 | C22H20BrN3O2
reactant | phenylboronic acid | 0.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dimethoxyethane | 3.0 ml | C(OC)COC | C4H10O2
reactant | sodium carbonate | 0.5M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(3-(benzyloxy)-5-isopropoxyphenyl)-6-phenyl-3H-imidazo[4,5-b]pyridine | 0.11 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OC(C)C)C1=NC=2C(=NC=C(C2)C2=CC=CC=C2)N1 | C28H25N3O2
